US05716756
7.75 g (30 mmol) of 1,1,1,3,3,3-hexafluoro-2-p-tolylpropan-2-ol were dissolved in 45 ml of DMF, and 1.2 g (40 mmol) of NaH (80% strength dispersion in mineral oil) were added. After a clear solution had formed, 5.0 g (14 mmol) of 2,4,6-trimethylbenzene-1,3-disulfonyl chloride were added and the mixture was stirred for a further 72 hours at room temperature. The mixture was poured into water and the precipitated product was filtered off and dried. 7.8 g of 1,3,5-trimethyl-2,4-bis-(2,2,2-trifluoro-1-p-tolyl-1-trifluoromethylethoxy-sulfonyl)-benzene were obtained (colorless crystals, m.p.: 178° C. [from acetonitrile]).

reactant | 1,1,1,3,3,3-hexafluoro-2-p-tolylpropan-2-ol | 30 mmol, 7.75 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)C)(F)F | C10H8F6O
reactant | NaH | 40 mmol, 1.2 g | [H-].[Na+]
reactant | 2,4,6-trimethylbenzene-1,3-disulfonyl chloride | 14 mmol, 5.0 g | CC1=C(C(=CC(=C1S(=O)(=O)Cl)C)C)S(=O)(=O)Cl | C9H10Cl2O4S2
reactant | water | O | H2O
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
product | 1,3,5-trimethyl-2,4-bis-(2,2,2-trifluoro-1-p-tolyl-1-trifluoromethylethoxy-sulfonyl)-benzene | 7.8 g | CC1=C(C(=C(C(=C1)C)S(=O)(=O)OC(C(F)(F)F)(C1=CC=C(C=C1)C)C(F)(F)F)C)S(=O)(=O)OC(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)C | C29H24F12O6S2
